* C:\Users\rohan\Downloads\project_zip\3_Ring Oscillator.asc
XX1 N001 osc not_cmos
XX2 N002 N001 not_cmos
XX3 osc N002 not_cmos

* block symbol definitions
.subckt not_cmos OUT IN
M1 OUT IN 0 0 N_50n l=50n w=500n
M2 VDD IN OUT NC_01 P_50n l=50n w=1u
VDD VDD 0 1
C1 N001 0 1000p
.include BSIM4_model.txt
.ends not_cmos

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\rohan\Documents\LTspiceXVII\lib\cmp\standard.mos
.include BSIM4_model.txt
.ic V(osc)=0
.tran .5n
.backanno
.end
