* C:\Users\rohan\Downloads\project_zip\Aec_project_Vth.asc
C2 Vout N003 10µ
R4 Vout 0 1k
V1 V1 0 0
R2 V1 N003 1k
M1 N003 N004 0 0 nmos1 l=50n w=500n
V2 N004 0 0
C1 Vout N001 10µ
R1 Vout 0 1k
R3 V1 N001 1k
V4 N002 0 0
M2 N001 N002 0 0 Si7336ADP
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\rohan\Documents\LTspiceXVII\lib\cmp\standard.mos
.dc V1 0 15 0.01
;tran 5ms
.include BSIM4_model1.txt
;dc V1 0 15 0.01
.backanno
.end
